US07592477B2
To a mixture of 2-butyl-1-benzofuran-3-carbaldehyde (25 g, 0.124 mol) and sodium acetate (12.2 g, 0.124 mol) in methanol (100 mL) was added hydroxylamine hydrochloride (10.3 g, 0.149 mol) in water (25 mL) at 0° C. The mixture was stirred at rt for 2 h. Water (300 mL) was added to the reaction mixture and the product was extracted with EtOAc. The organic layer was dried and concentrated under vacuum to give crude 2-butyl-1-benzofuran-3-carbaldehyde oxime (25 g, 93%) as a light brown liquid.

reactant | 2-butyl-1-benzofuran-3-carbaldehyde | 0.124 mol, 25 g | C(CCC)C=1OC2=C(C1C=O)C=CC=C2 | C13H14O2
reactant | sodium acetate | 0.124 mol, 12.2 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 0.149 mol, 10.3 g | Cl.NO
solvent | methanol | 100 mL | CO | CH4O
solvent | water | 25 mL | O | H2O
solvent | Water | 300 mL | O | H2O
product | 2-butyl-1-benzofuran-3-carbaldehyde oxime | 25 g, 93% | C(CCC)C=1OC2=C(C1C=NO)C=CC=C2 | C13H15NO2
